US05750469
Methyl 3-azido-3-phenyl-2-hydroxybutyrate
19.5 g (300 mmol) of sodium azide and 16.0 g (300 mmol) of ammonium chloride are suspended in 400 ml of methanol and treated with 19.2 g (100 mmol) of methyl 3-phenyl-2,3-epoxybutyrate. The mixture is stirred for 9 hours under reflux and for 12 hours at room temperature, the majority of the methanol is distilled off and the residue is treated with 200 ml of water. It is then extracted with ethyl acetate, and the organic phases are dried and concentrated. The residual oil is treated with a little diethyl ether and the crystals formed are filtered off with suction.

reactant | sodium azide | 300 mmol, 19.5 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 300 mmol, 16.0 g | [Cl-].[NH4+]
reactant | methyl 3-phenyl-2,3-epoxybutyrate | 100 mmol, 19.2 g | C1(=CC=CC=C1)C1(C(C(=O)OC)O1)C | C11H12O3
solvent | methanol | 400 ml | CO | CH4O
product | Methyl 3-azido-3-phenyl-2-hydroxybutyrate | N(=[N+]=[N-])C(C(C(=O)OC)O)(C)C1=CC=CC=C1 | C11H13N3O3
